US05594021
2-(4-chlorobenzyl)benzo[b]thiophene-3-sulfonylchloride was prepared by the method of Example 40B with DMF (70 mmoles, 5.4 ml), sulfurylchloride (2.3 mmoles, 1.9 ml) and 2-(4-chlorobenzyl)-benzo[b]thiophene (4.6 mmoles, 1.2 g). Flash chromatography (2% ethyl acetate/hexanes) provided 0.51 g (31%) of an orange-yellow oil.

reactant | DMF | 70 mmoles, 5.4 ml | CN(C)C=O | C3H7NO
reactant | sulfurylchloride | 2.3 mmoles, 1.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-(4-chlorobenzyl)-benzo[b]thiophene | 4.6 mmoles, 1.2 g | ClC1=CC=C(CC2=CC3=C(S2)C=CC=C3)C=C1 | C15H11ClS
product | 2-(4-chlorobenzyl)benzo[b]thiophene-3-sulfonylchloride | ClC1=CC=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=C1 | C15H10Cl2O2S2
